US06693208B2
A slurry of 4-chloro-3-nitrocinnamic acid (12.2 g, 53.2 mmol), ethyl alcohol (50 mL) and ethyl acetate (20 mL) was treated with 5% Platinum sulfide on carbon (0.6 g) and was placed in a Parr autoclave. The autoclave was placed under a hydrogen atmosphere and heated overnight at 50° C. After cooling to room temperature, the reaction mixture was filtered through celite, and was concentrated in vacuo to yield 10.6 g of 3-(4-chloro-3-aminophenyl)propionic acid.

reactant | 4-chloro-3-nitrocinnamic acid | 53.2 mmol, 12.2 g | ClC1=C(C=C(C=CC(=O)O)C=C1)[N+](=O)[O-] | C9H6ClNO4
reactant | ethyl alcohol | 50 mL | C(C)O | C2H6O
catalyst | Platinum sulfide | [Pt]=S
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | 3-(4-chloro-3-aminophenyl)propionic acid | 10.6 g | ClC1=C(C=C(C=C1)CCC(=O)O)N | C9H10ClNO2
